US07319104B2
To a cooled solution of ethyl 2-[4-(2-{[(E)-amino(hydroxyimino)methyl][4-(2-cyclopropyl-1,3-oxazol-4-yl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate (0.108 g, 0.21 mmol) in toluene (2 ml) was added triethylamine (0.028 mL, 0.20 mmol) dropwise. After 5 min, 3-(trifluoromethyl)benzoyl chloride (0.031 ml, 0.20 mmol) in toluene (0.1 ml) was added dropwise. The mixture was allowed to warm to rt over 2 h and then heated to 110C for 2 hr. Upon cooling, the mixture was filtered, and the solid was washed with EtOAc. The filtrate was concentrated in vacuo, and the resulting residue was partitioned between EtOAc and a solution of 0.5N aqueous HCl. The organic phase was washed with 0.5N aqueous HCl (1×), 0.5N aqueous NaOH (2×), and brine (1×), dried with Na2SO4 and concentrated in vacuo. The crude material was purified by flash chromatography (EtOAc/hexanes, 10:90 to 20:80) to yield ethyl 2-{4-[2-([4-(2-cyclopropyl-1,3-oxazol-4-yl)benzyl]{5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}amino)ethyl]phenoxy}-2-methylpropanoate (76 mg, 58%).

reactant | ethyl 2-[4-(2-{[(E)-amino(hydroxyimino)methyl][4-(2-cyclopropyl-1,3-oxazol-4-yl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 0.21 mmol, 0.108 g | N\C(=N/O)\N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C=1N=C(OC1)C1CC1 | C28H34N4O5
reactant | triethylamine | 0.20 mmol, 0.028 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)benzoyl chloride | 0.20 mmol, 0.031 ml | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.1 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-{4-[2-([4-(2-cyclopropyl-1,3-oxazol-4-yl)benzyl]{5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}amino)ethyl]phenoxy}-2-methylpropanoate | 76 mg, 58% | C1(CC1)C=1OC=C(N1)C1=CC=C(CN(CCC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)C2=NOC(=N2)C2=CC(=CC=C2)C(F)(F)F)C=C1 | C36H35F3N4O5
